US08629270B2
2-(2-Chloro-5-fluoro-pyrimidin-4-yl)propan-2-ol
A stirred, −78° C. solution of 1-(2-chloro-5-fluoro-pyrimidin-4-yl)ethanone (10.06 g, 57.6 mmol) in tetrahydrofuran (100 mL) under nitrogen is reacted with a 3 M solution of methyl magnesium bromide in diethyl ether (124 mL, 72.04 mmol) and the resulting mixture is stirred at −78° C. for 20 minutes. The reaction is quenched with aqueous saturated ammonium chloride and the mixture is warmed to room temperature. The reaction mixture is extracted three times with ethyl acetate. The combined organic layers are dried over sodium sulfate and concentrated under vacuum. The crude product is purified over silica gel with a 30 minute, 5% to 100% ethyl acetate in hexanes gradient, to give the title compound (7.06 g, 64%). ES/MS (m/e): (35C/37Cl) 191/193 (M+H).

reactant | 1-(2-chloro-5-fluoro-pyrimidin-4-yl)ethanone | 57.6 mmol, 10.06 g | ClC1=NC=C(C(=N1)C(C)=O)F | C6H4ClFN2O
reactant | methyl magnesium bromide | C[Mg]Br
reactant | diethyl ether | 72.04 mmol, 124 mL | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 2-(2-Chloro-5-fluoro-pyrimidin-4-yl)propan-2-ol | 7.06 g, 64% | ClC1=NC=C(C(=N1)C(C)(C)O)F | C7H8ClFN2O
